Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Rectal bleeding
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
Ms. ___ is a ___ woman with medical history notable for 
anxiety, depression who presents from her PCP office with report 
of x3 days of bright red blood per rectum.  
 Per patient, for the last x3 days she has noticed bright red 
blood in her toilet bowel, mixed with her stool, and on the 
toilet paper. She denies constipation, straining, She denies 
abdominal pain, nausea/vomiting. She endorses lightheadedness 
with standing, denies falls. She denies CP/palp, SOB, dysuria. 
She reports ongoing chronic back pain. Her last colonoscopy was 
___ years ago, reportedly normal. On evaluation by her PCP, VS 
were notable for HRs to 111, otherwise no remarkable findings. 
Given concern for active GIB and tachycardia, she was referred 
to the ED by her PCP for further evaluation.  
 
 In the ED, initial VS were 97.4 109 133/62 15 98% RA  
 -Exam notable for: guiac +, bright red blood in stool  
 -Labs showed:  
 1500: 6.3>12.8/37.3<265 -> 1700: 7.1>14.0/41.9<301  
 ___: 11.9 PTT: 25.9 INR: 1.1  
 ALT: 29 AST: 24 AP: 136 Tbili: 0.3 Alb: 4.2  
 Na 141 K 3.4 Cl 102 HCO3 24 BUN 7 Cr 0.8 Gluc 119  
 -Received:  
 ___ 14:46 IV Pantoprazole 40 mg  
 ___ 20:41 PO Acetaminophen 1000 mg  
 -GI was consulted, recommendations pending.  
 -Although Hgb was stable on repeat checks, the decision was 
made to admit for tachycardia  
 -Transfer VS were 95 121/82 16 95% RA  
 
 On arrival to the floor, patient is walking to the bathroom and 
reports she feels slightly lightheaded. She has not had a BM 
since the morning.  
 REVIEW OF SYSTEMS:  
 (+)PER HPI, otherwise 10pt ROS obtained and negative  
 
Past Medical History:
 -Depression  
 -Chronic pain  
 -Neck fx ___, s/p c-spine fusion  
 -right THR ___  
 -plate in left ___ in left humerous  
 
Social History:
___
Family History:
 Mother - pancreatic ca ___  
 ___ uncle - pancreatic ca  
 MGM - pancreatic ca  
 Father - died of CHF at age ___  
 
Physical Exam:
ADMISSION:
S: 97.7 126 80 89 20 95% RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM  
 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi  
 ABDOMEN: soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: WWP, no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE:
VITALS: 97.7127 / ___    
GENERAL: Alert, oriented, no acute distress  
CARDIOVASCULAR: Regular rate and rhythm, normal S1 + S2, no 
murmurs, rubs, gallops  
LUNGS: Clear to auscultation bilaterally without wheezes, rales, 
rhonchi
ABDOMEN: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
NEURO: Face grossly symmetric. Moving all limbs with purpose 
against gravity. Speech fluent.  
 
Pertinent Results:
ADMISSION:

___ 01:00PM BLOOD WBC-6.3 RBC-3.76* Hgb-12.8 Hct-37.3 
MCV-99* MCH-34.0* MCHC-34.3 RDW-13.2 RDWSD-47.6* Plt ___
___ 01:00PM BLOOD Neuts-66.0 ___ Monos-7.1 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-4.17 AbsLymp-1.56 AbsMono-0.45 
AbsEos-0.09 AbsBaso-0.04
___ 01:00PM BLOOD Glucose-119* UreaN-7 Creat-0.8 Na-141 
K-3.4 Cl-102 HCO3-24 AnGap-18
___ 01:00PM BLOOD ALT-29 AST-24 AlkPhos-136* TotBili-0.3
___ 01:00PM BLOOD Albumin-4.2
___ 06:50AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.8
___ 01:00PM BLOOD TSH-1.8

IMAGES/STUDIES
___ 9:00:00 AM - colonoscopy report
Normal mucosa in the colon
Diverticulosis of the sigmoid colon
Normal mucosa in the whole colon and terminal ileum
Internal & external hemorrhoids
Otherwise normal colonoscopy to cecum and terminal ileum

DISCHARGE:

___ 06:15AM BLOOD WBC-6.3 RBC-4.25 Hgb-14.3 Hct-42.9 
MCV-101* MCH-33.6* MCHC-33.3 RDW-13.2 RDWSD-48.8* Plt ___
___ 06:15AM BLOOD Glucose-87 UreaN-5* Creat-0.6 Na-142 
K-4.3 Cl-105 HCO3-20* AnGap-21*
 
Brief Hospital Course:
PATIENT SUMMARY:
___ woman with medical history notable for anxiety, depression 
who presents from her PCP office with report of x3 days of 
bright red blood per rectum. 

ACUTE ISSUES:
#Lower GI bleed: Had ___ other episodes of BRBPR as inpatient, 
small volume. CBC was stable. Colonoscopy showed internal and 
external hemorrhoids and moderate to severe diverticulosis. 

CHRONIC ISSUES:
#Depression/anxiety: continued venlafaxine and mirtazapine.

TRANSITION ISSUES:
[]continue monitoring for rectal bleeding, consider intervention 
if large volume bleeding persists
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 10 mg PO QPM 
2. Mirtazapine 30 mg PO QHS 
3. Gabapentin 800 mg PO TID 
4. Omeprazole 20 mg PO BID 
5. Tizanidine 4 mg PO BID:PRN muscle spasm 
6. Venlafaxine XR 75 mg PO DAILY 
7. Venlafaxine XR 150 mg PO QPM 
8. Vitamin D 1000 UNIT PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 
11. Vesicare (solifenacin) 5 mg oral QHS 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM  
2.  Docusate Sodium 100 mg PO BID  
3.  Gabapentin 800 mg PO TID  
4.  Mirtazapine 30 mg PO QHS  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 20 mg PO BID  
7.  Tizanidine 4 mg PO BID:PRN muscle spasm  
8.  Venlafaxine XR 75 mg PO DAILY  
9.  Venlafaxine XR 150 mg PO QPM  
10.  Vesicare (solifenacin) 5 mg oral QHS  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Lower gastrointestinal bleeding
Internal hemorrhoids
External hemorrhoids
Diverticulosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
What happened in the hospital:
- You came in because of bleeding in the stool. The GI doctors 
performed ___, and found internal and external 
hemorrhoids, and diverticulosis, which are outpouchings of the 
intestinal tract. These are very likely the cause of your 
bleeding. 
- You may have some similar bleeding in the future. If you feel 
lightheaded, lose consciousness or see a very large volume of 
blood, you should come back to the hospital. Otherwise this is 
ok.

After you leave:
- You should have a repeat colonoscopy in ___ years 

Sincerely,

Your ___ Team
 
Followup Instructions:
___